US07378135B2
Under a nitrogen atmosphere, 2,7-diacetoxy-9,9,-dimethylfluorenone (5.00 g) and lithium hydroxide monohydrate (2.00 g) were dissolved in ethylene glycol (50 mL), and the solution was refluxed under heating for 2 hours. The reaction solution was poured into hydrochloric acid, and after extracting with ethyl acetate, the organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was recrystallized from a chloroform/ethyl acetate mixed solvent to obtain 2,7-dihydroxy-9,9,-dimethylfluorenone (2.77 g). (Melting point: 177 to 180° C.)

reactant | 2,7-diacetoxy-9,9,-dimethylfluorenone | 5.00 g | C(C)(=O)OC1C(C=2C(C3=CC(=CC=C3C2C=C1)OC(C)=O)(C)C)=O | C19H18O5
reactant | lithium hydroxide monohydrate | 2.00 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene glycol | 50 mL | C(CO)O | C2H6O2
product | 2,7-dihydroxy-9,9,-dimethylfluorenone | 2.77 g | OC1C(C=2C(C3=CC(=CC=C3C2C=C1)O)(C)C)=O | C15H14O3
